US07262185B2
To a solution of aluminum lithium hydride (1.57 g) in THF (140 ml) was added dropwise methyl 2-propyl-1,2,3-triazole-4-carboxylate (7.0 g) in. THF (70 ml) at 0° C. The mixture was stirred for 1 hour at room temperature, and an aqueous solution of saturated sodium thiosulfate was added to the mixture at 0° C. The mixture was filtered with Celite, and washed with ethanol. The solvent was removed under reduced pressure, and the obtained residue was purified by silica gel column chromatography, to give 4-hydroxymethyl-2-propyl-1,2,3-triazole (5.9 g). To 4-hydroxymethyl-2-propyl-1,2,3-triazole (4.0 g), thionyl chloride (32 ml) was added to the mixture at 0° C., and the mixture was heated to reflux for 1 hour. After allowing the mixture to be cooled to room temperature, the solvent was removed under reduced pressure, to give 4-chloromethyl-2-propyl-1,2,3-triazole (4.2 g).

reactant | aluminum lithium hydride | 1.57 g | [H-].[Li+].[Al+3].[H-].[H-].[H-]
reactant | methyl 2-propyl-1,2,3-triazole-4-carboxylate | 7.0 g | C(CC)N1N=CC(=N1)C(=O)OC | C7H11N3O2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 140 ml | C1CCOC1 | C4H8O
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | 4-hydroxymethyl-2-propyl-1,2,3-triazole | 5.9 g | OCC1=NN(N=C1)CCC | C6H11N3O
